US06110924
c) Preparation of 5-bromo-5-decylbarbituric acid
To a suspension of 5-decylbarbituric acid (0.537 g) in 2.9 ml of water are added under stirring at room temperature 0.29 ml of 48% hydrobromic acid. The mixture is cooled to 0° C. and 0.113 ml of bromine are dropped. The reaction mixture is stirred at room temperature for 1 hour 30 minutes. then the white precipitate is filtered and it is washed with water. The solid is partitioned between water and diethyl ether, the organic phase is separated, washed with brine and finally dried over sodium sulfate. By evaporation of the solvent under reduced pressure 0.62 g of the product are recovered.

reactant | 5-decylbarbituric acid | 0.537 g | C(CCCCCCCCC)C1C(NC(NC1=O)=O)=O | C14H24N2O3
reactant | hydrobromic acid | 0.29 ml | Br | BrH
reactant | bromine | 0.113 ml | BrBr | Br2
solvent | water | 2.9 ml | O | H2O
product | 5-bromo-5-decylbarbituric acid | BrC1(C(NC(NC1=O)=O)=O)CCCCCCCCCC | C14H23BrN2O3
